US07375236B2
3,4-Diethoxy-2-fluoro-6-hydroxymethylbenzonitrile
3,4-Diethoxy-2-fluoro-6-formylbenzonitrile (5.90 kg, 24.87 mol) and ethyl acetate (59.0 L) were transferred to a reaction vessel under a nitrogen atmosphere, and while stirring, sodium triacetoxyborohydride (NaB(OAc)3H) (11.70 kg) was added. After 30 minutes of stirring, the internal temperature was heated up to 40° C., and the reaction solution was stirred for another 2 hours. The reaction solution was cooled, and at 15° C. internal temperature, water (2 L) was slowly added in drops, and excess sodium triacetoxyborohydride was degraded. Then more water (27.5 L) was added. The insoluble material was dissolved by increasing the outer bath temperature to 40° C., and the solution was separated after cooling. Following separation, the obtained organic layer was washed twice with an aqueous sodium bicarbonate solution and then with brine. The obtained organic layer was cooled in a 10° C. outer bath, and left to stand overnight.

reactant | 3,4-Diethoxy-2-fluoro-6-formylbenzonitrile | 24.87 mol, 5.90 kg | C(C)OC=1C(=C(C#N)C(=CC1OCC)C=O)F | C12H12FNO3
reactant | ethyl acetate | 59.0 L | C(C)(=O)OCC | C4H8O2
reactant | sodium triacetoxyborohydride | 11.70 kg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | water | 27.5 L | O | H2O
solvent | water | 2 L | O | H2O
product | 3,4-Diethoxy-2-fluoro-6-hydroxymethylbenzonitrile | C(C)OC=1C(=C(C#N)C(=CC1OCC)CO)F | C12H14FNO3
